US04049825
A mixture of 28.2 g (0.1 mole) of 2-[bis(p-fluorophenyl)methoxy]ethyl chloride and 17 g (1 mole) of ammonia in 187.5 ml of methanol is shaken in an autoclave for a period of 6 hours at 135° C. The reaction mixture is poured into water and extracted with diethyl ether. The extract is acidified with 2N hydrochloric acid. The acid aqueous layer is separated off, made alkaline with 2N sodium hydroxide and extracted with diethyl ether. The extract is dried over potassium carbonate and the ether is distilled off. The residue is distilled, yielding 15.4 g of 2-[bis(p-fluorophenyl)-methoxy]ethylamine, boiling point 130° C./0.2 mm.Hg. The base is dissolved in diethyl ether and an ethereal solution of maleic acid is added. The precipitate is filtered off and crystallised from a mixture of ethanol and diethyl ether. 2-[Bis(p-fluorophenyl)methoxy]ethylamine hydrogen maleate is obtained. Its melting point is 126°-127° C.

reactant | 2-[bis(p-fluorophenyl)methoxy]ethyl chloride | 0.1 mole, 28.2 g | FC1=CC=C(C=C1)C(OCCCl)C1=CC=C(C=C1)F | C15H13ClF2O
reactant | ammonia | 1 mole, 17 g | N | H3N
reactant | water | O | H2O
solvent | methanol | 187.5 ml | CO | CH4O
product | 2-[bis(p-fluorophenyl)-methoxy]ethylamine | 15.4 g | FC1=CC=C(C=C1)C(OCCN)C1=CC=C(C=C1)F | C15H15F2NO
